US04027028
Using the procedure of Example I step B and starting from (α-naphtoxyethyl) bromide and 4(N-phenyl N-propionylamino) piperidine, N(α-naphtoxyethyl) 4-(N'-phenyl-N'-propionylamino) piperidine is obtained melting at 110°-112° (cyclohexane).

reactant | (α-naphtoxyethyl) bromide | C1(=CC=CC2=CC=CC=C12)OC(C)Br | C12H11BrO
reactant | 4(N-phenyl N-propionylamino) piperidine | C1(=CC=CC=C1)N(C(CC)=O)C1CCNCC1 | C14H20N2O
solvent | cyclohexane | C1CCCCC1 | C6H12
product | N(α-naphtoxyethyl) 4-(N'-phenyl-N'-propionylamino) piperidine | C1(=CC=CC2=CC=CC=C12)OC(C)N1CCC(CC1)N(C(CC)=O)C1=CC=CC=C1 | C26H30N2O2
